US09062048B2
Step D: 1-Phenoxy-7-(trifluoromethyl)isoquinoline
A mixture of 1-chloro-7-(trifluoromethyl)isoquinoline (1.5 g, 6.5 mmol), from above step C, KOH (0.73 g, 13 mmol) and phenol (6.1 g, 65 mmol) were heated at 100° C. for 72 h. The resulting mixture was cooled to room temperature and taken in Et2O and extracted with 4N NaOH (x3). The organic fraction was washed with water, saturated NaCl, dried over Na2SO4 and evaporated to give the title compound.

reactant | 1-chloro-7-(trifluoromethyl)isoquinoline | 6.5 mmol, 1.5 g | ClC1=NC=CC2=CC=C(C=C12)C(F)(F)F | C10H5ClF3N
reactant | KOH | 13 mmol, 0.73 g | [OH-].[K+]
reactant | phenol | 65 mmol, 6.1 g | C1(=CC=CC=C1)O | C6H6O
solvent | Et2O | CCOCC | C4H10O
product | 1-Phenoxy-7-(trifluoromethyl)isoquinoline | O(C1=CC=CC=C1)C1=NC=CC2=CC=C(C=C12)C(F)(F)F | C16H10F3NO
